US05254595
A mixture of 1-(2-naphthyloxy)-2,3-epoxypropane (1.95 g), 2-aminotetralin (2.65 g) and ethanol (35 ml) is heated to the reflux temperature for 5 hours. The solvent is then evaporated off and the thus obtained solid residue is crystallized from ethyl acetate (5 ml), recovered by filtration, washed with ethyl acetate and then with ethyl ether, and dried yielding 1.8 g of N-(1,2,3,4-tetrahydronaphth-2-yl)-2-hydroxy-3-(2-naphthyloxy)propanamine, as the free base; m.p. 102°-115° C.

reactant | 1-(2-naphthyloxy)-2,3-epoxypropane | 1.95 g | C1=C(C=CC2=CC=CC=C12)OCC1CO1 | C13H12O2
reactant | 2-aminotetralin | 2.65 g | NC1CC2=CC=CC=C2CC1 | C10H13N
solvent | ethanol | 35 ml | C(C)O | C2H6O
product | N-(1,2,3,4-tetrahydronaphth-2-yl)-2-hydroxy-3-(2-naphthyloxy)propanamine | 1.8 g | C1C(CCC2=CC=CC=C12)NCC(COC1=CC2=CC=CC=C2C=C1)O | C23H25NO2
